US09060517B2
7.96 g of the crude product of 6-fluoroisatin were added to 55 mL of water followed by the addition of 16.2 g (6 equivalents) of KOH while cooling with ice and stirring for 30 minutes. 9.9 g (1.5 equivalents) of bromoacetophenone were dropped into the resultant suspension while holding the internal temperature of the reaction mixture at 20° C. to 25° C. followed by additionally stirring overnight at room temperature. After neutralizing with concentrated hydrochloric acid, the precipitated crystals were filtered out and washed with a small amount of water. After adequately drying the resulting crystals, 70 mL of nitrobenzene heated to 120° C. to 130° C. were added a little at a time followed by further stirring for 1 hour at 140° C. to 150° C. After cooling the reaction mixture to room temperature, the precipitated crystals were washed with chloroform to obtain 5.4 g of 7-fluoro-3-hydroxy-2-methylquinoline.

reactant | 6-fluoroisatin | FC1=CC=C2C(C(NC2=C1)=O)=O | C8H4FNO2
reactant | KOH | 16.2 g, 6 equivalents | [OH-].[K+]
reactant | bromoacetophenone | 9.9 g, 1.5 equivalents | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 55 mL | O | H2O
product | 7-fluoro-3-hydroxy-2-methylquinoline | 5.4 g | FC1=CC=C2C=C(C(=NC2=C1)C)O | C10H8FNO
